US05679696
A solution of 3-cyclopentylthio-4-methoxybenzoic acid (9 g; that is prepared as described in Reference Example 46) in dry dichloromethane (90 mL) under nitrogen is treated with oxalyl chloride (6.2 mL). After stirring at room temperature for 2 hours, the mixture is evaporated and dried under high vacuum, to give 3-cyclopentylthio-4-methoxybenzoyl chloride.

reactant | 3-cyclopentylthio-4-methoxybenzoic acid | C1(CCCC1)SC=1C=C(C(=O)O)C=CC1OC | C13H16O3S
reactant | oxalyl chloride | 6.2 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
product | 3-cyclopentylthio-4-methoxybenzoyl chloride | C1(CCCC1)SC=1C=C(C(=O)Cl)C=CC1OC | C13H15ClO2S
